US06169107A
In 60 ml of tetrahydrofuran was dissolved 2.20 g (6.40 mmol) of ethyl 6-benzyloxy-4-chloro-1-methyl-2-indolecarboxylate. After 0.3 g of 10% palladium/carbon was added to the solution, catalytic hydrogenation was performed at ambient temperature under normal pressure. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 1.50 g (92.4%) of ethyl 4-chloro-6-hydroxy-1-methyl-2-indolecarboxylate.

reactant | ethyl 6-benzyloxy-4-chloro-1-methyl-2-indolecarboxylate | 6.40 mmol, 2.20 g | C(C1=CC=CC=C1)OC1=CC(=C2C=C(N(C2=C1)C)C(=O)OCC)Cl | C19H18ClNO3
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | 0.3 g | [Pd] | Pd
product | ethyl 4-chloro-6-hydroxy-1-methyl-2-indolecarboxylate | 1.50 g, 92.4% | ClC1=C2C=C(N(C2=CC(=C1)O)C)C(=O)OCC | C12H12ClNO3
